US07576115B2
Synthesis of methyl 5-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate
1-[5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone (38.0 mg, 0.14 mmol) and methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate (27.9 mg, 0.14 mmol) were dissolved in dimethylformamide (2.0 mL) and stirred at 110° C. for 12 hours. After cooling, the solvent was evaporated, and ethyl acetate was added to the resulting crude product. The precipitated solid was recovered by filtration to give 20.0 mg of the desired product as a pale yellow solid (yield 31%).

reactant | 1-[5-(4-t-Butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 0.14 mmol, 38.0 mg | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C16H20N2O2
reactant | methyl 5-hydrazinocarbonyl-2-thiophenecarboxylate | 0.14 mmol, 27.9 mg | N(N)C(=O)C1=CC=C(S1)C(=O)OC | C7H8N2O3S
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | methyl 5-[(2-{1-[5-(4-t-butylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethylidene}hydrazino)carbonyl]-2-thiophenecarboxylate | 20.0 mg, yield 31% | C(C)(C)(C)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=NNC(=O)C1=CC=C(S1)C(=O)OC)O | C23H26N4O4S
